US07238716B2
To a mixture of methyl 2-[3-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-2-pyridyl]methoxy]phenyl]acetate (1.10 g), tetrahydrofuran (5 mL) and methanol (5 mL) was added a 1N aqueous sodium hydroxide solution (5.0 mL) and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was concentrated, and water and dilute hydrochloric acid were added to acidify the residue. The precipitated solid was collected by filtration and dried with air to give crystals (0.85 g, 80%) of 2-[3-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-2-pyridyl]methoxy]phenyl]acetic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 97-98° C.

reactant | methyl 2-[3-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-2-pyridyl]methoxy]phenyl]acetate | 1.10 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=CC(=N1)COC=1C=C(C=CC1)CC(=O)OC | C26H24N2O5
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 5.0 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 2-[3-[[6-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-2-pyridyl]methoxy]phenyl]acetic acid | 0.85 g, 80% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=CC(=N1)COC=1C=C(C=CC1)CC(=O)O | C25H22N2O5
